US03953501
N-(3-METHOXYCARBONYL-5-NITROBENZOYL)-GLYCINE (VIa)
Under agitation and during the course of 21/2 hours, 183.0 g. (0.75 mole) of 3-methoxycarbonyl-5-nitrobenzoyl chloride in 750 ml. of acetone is added dropwise to a solution of 62.0 g. (0.825 mole) of glycine and 189.0 G. of sodium bicarbonate in 3 l. of water. The first-obtained precipitate is gradually dissolved again after an additional three hours of agitation. Thereafter, the reaction mixture is extracted twice with ether, the acqueous phase is acidified with concentrated hydrochloric acid, the thus-precipitated oil is extracted repeatedly with ethyl acetate, and the combined ethyl acetate extracts, after washing with water and drying with sodium sulfate, are mixed with a stoichiometric amount of dicyclohexylamine. After allowing the reaction mixture to stand for some time, it is filtered off from the precipitated dicyclohexylammonium salt (m.p. 204°-205° C. from chloroform/ether), washed several times with ether, and the acid is liberated again by distributing the reaction mixture between ethyl acetate and 2N sulfuric acid. After washing the ethyl phases with water, drying with sodium sulfate, and concentrating under vacuum, 181.0 g. of the above-identified compound is obtained. M.P. 142°-143°C.

reactant | 3-methoxycarbonyl-5-nitrobenzoyl chloride | 0.75 mole | COC(=O)C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C9H6ClNO5
reactant | acetone | CC(=O)C | C3H6O
reactant | glycine | 0.825 mole | NCC(=O)O | C2H5NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | N-(3-METHOXYCARBONYL-5-NITROBENZOYL)-GLYCINE | COC(=O)C=1C=C(C(=O)NCC(=O)O)C=C(C1)[N+](=O)[O-] | C11H10N2O7
